US09359375B2
To a solution of N-Boc-1-amino-1-cyclopentane carboxylic acid (518 mg, 2.26 mmol) and HOBt hydrate (416 mg, 2.71 mmol) in DMF (5 mL), EDC (522 mg, 2.71 mmol) was added. After being stirred at room temperature for 1 h, conc. NH4OH (14 N, 0.900 mL, 12.6 mmol) was added. The mixture was stirred for 18 h. Water and EtOAc were added. The organic phase was washed with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo to give tert-butyl 1-carbamoylcyclopentylcarbamate (305 mg).

reactant | N-Boc-1-amino-1-cyclopentane carboxylic acid | 2.26 mmol, 518 mg | C(=O)(OC(C)(C)C)NC1(CCCC1)C(=O)O | C11H19NO4
reactant | HOBt hydrate | 2.71 mmol, 416 mg | C1=CC=C2C(=C1)N=NN2O.O
reactant | EDC | 2.71 mmol, 522 mg
reactant | NH4OH | 12.6 mmol, 14 N, 0.900 mL | [NH4+].[OH-]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Water | O | H2O
product | tert-butyl 1-carbamoylcyclopentylcarbamate | 305 mg | C(N)(=O)C1(CCCC1)NC(OC(C)(C)C)=O | C11H20N2O3
